US05008280
3-(2-Acetylthioethyl)-2-vinyloxycarbonylimino-6-trifluoromethoxybenzothiazoline may be obtained in the following manner: ethyl azodicarboxylate (10.5 cc) is added dropwise to triphenylphosphine (17.6 g) dissolved in tetrahydrofuran (150 cc) at 0° C. Stirring is continued for 30 minutes at this temperature. A solution of thiolacetic acid (4.8 cc) and 3-(2-hydroxyethyl)-2-vinyloxycarbonylimino-6-trifluoromethoxybenzothiazoline (11.7 g) in tetrahydrofuran (75 cc) is then added gradually. The reaction is continued for 1 hour at 0° C. and then 1 hour at a temperature in the region of 20° C. After concentration to dryness under reduced pressure (20 mm Hg; 2.7 kPa), the residue obtained is taken up in methanol (50 cc), then filtered and washed once with methanol (50 cc). 3-(2-Acetylthioethyl)-2-vinyloxycarbonylimino-6-trifluoromethoxybenzothiazoline (10.4 g), m.p. 173° C., is obtained.

reactant | ethyl azodicarboxylate | 10.5 cc | N(=NC(=O)[O-])C(=O)OCC
reactant | triphenylphosphine | 17.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | thiolacetic acid | 4.8 cc | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | 3-(2-hydroxyethyl)-2-vinyloxycarbonylimino-6-trifluoromethoxybenzothiazoline | 11.7 g | OCCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=NC(=O)OC=C | C13H11F3N2O4S
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 cc | O1CCCC1 | C4H8O
solvent | methanol | 50 cc | CO | CH4O
product | 3-(2-Acetylthioethyl)-2-vinyloxycarbonylimino-6-trifluoromethoxybenzothiazoline | 10.4 g | C(C)(=O)SCCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=NC(=O)OC=C | C15H13F3N2O4S2
